US03987067
Following the procedure of Example 1 but using 0.738 g. of PGF2α, 0.347 ml. of triethylamine, 0.326 ml. of isobutylchloroformate, and 0.612 g. of 4-hydroxy-9-fluorenone, there is obtained a crude residue. This residue is subjected to silica gel chromatography, eluting with ethyl acetate-water (99:1) followed by ethyl acetate-acetone-water (70:30:1). The residue obtained by concentration of selected fractions, 0.650 g., is crystallized from ethyl acetate-hexane (10:7) as the title compound, white free-flowing crystals, m.p. 83.8°-86.8° C. having Rf 0.27 (TLC on silica gel in ethyl acetate).

reactant | PGF2α | CCCCC[C@@H](/C=C/[C@H]1[C@@H](C[C@@H]([C@@H]1C/C=C\CCCC(=O)O)O)O)O | C20H34O5
reactant | isobutylchloroformate | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
product | 4-hydroxy-9-fluorenone | OC1=CC=CC=2C(C3=CC=CC=C3C12)=O | C13H8O2
